US07595398B2
(S)-Azetidine-1,2-dicarboxylic acid 1-benzyl ester
(S)-Azetidine-2-carboxylic acid (250.4 mg, 2.5 mmol) was dissolved in DMF (15 mL) and distilled water (6 mL). The solution was cooled to 0° C., and DIEA (645 μL, 3.7 mmol) was added followed by benzyl chloroformate (530 μL, 3.7 mmol). The reaction was stirred at 0° C. and allowed to warm to ambient temperature overnight. The reaction was filtered and purified by reverse phase HPLC to give the desired product.

reactant | (S)-Azetidine-2-carboxylic acid | 2.5 mmol, 250.4 mg | N1[C@@H](CC1)C(=O)O | C4H7NO2
reactant | DIEA | 3.7 mmol, 645 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl chloroformate | 3.7 mmol, 530 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (S)-Azetidine-1,2-dicarboxylic acid 1-benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC1)C(=O)O | C12H13NO4
